US07473694B2
Synthesis of tert-butyl[5-chloro-6-(2-oxoethyl)pyrazolo[1,5-a]pyrimidin-7-yl](4-ethoxyphenyl)carbamate
To a mixed solution of tetrahydrofuran (12 mL) and water (3 mL) containing tert-butyl (6-allyl-5-chloropyrazolo[1,5-a]pyrimidin-7-yl)(4-ethoxyphenyl)carbamate (1.5 g, 3.5 mmol), sodium periodate (2.3 g, 10.5 mmol) and osmium tetraoxide (2.5w/v % in tert-butanol, 1.8 mL, 0.15 mmol) were added with ice-cooling. After the reaction mixture was stirred at room temperature for 5 hr, aqueous sodium sulfite was added here, and the mixture was extracted with ethyl acetate. The organic layer was washed with aqueous sodium hydrogen carbonate and then brine, and dried over sodium sulfate. After the sodium sulfate was filtered off, the solvent was distilled off, and the residue was purified with column chromatography (20% ethyl acetate-hexane) to obtain the title compound (895 mg, 2.08 mmol, yield 59%). 1H NMR (CDCl3, 400 MHz) δ(ppm): 9.44 (s, 1H), 8.19 (s, 1H), 7.14 (dt, J=9.8 and 2.9 Hz, 2H), 6.81 (d, J=6.8 Hz, 2H), 6.73 (d, J=2.2 Hz, 1H), 3.98 (q, J=7.1 Hz, 2H), 3.84 (d, J=37.3 Hz, 1H), 1.56 (s, 2H), 1.38 (t, J=7.1 Hz, 3H).

reactant | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
reactant | tert-butyl (6-allyl-5-chloropyrazolo[1,5-a]pyrimidin-7-yl)(4-ethoxyphenyl)carbamate | 3.5 mmol, 1.5 g | C(C=C)C=1C(=NC=2N(C1N(C(OC(C)(C)C)=O)C1=CC=C(C=C1)OCC)N=CC2)Cl | C22H25ClN4O3
reactant | sodium periodate | 10.5 mmol, 2.3 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
catalyst | osmium tetraoxide | 0.15 mmol, 1.8 mL | [Os](=O)(=O)(=O)=O
solvent | water | 3 mL | O | H2O
product | tert-butyl[5-chloro-6-(2-oxoethyl)pyrazolo[1,5-a]pyrimidin-7-yl](4-ethoxyphenyl)carbamate | 2.08 mmol, 895 mg, yield 59% | C(C)(C)(C)OC(N(C1=CC=C(C=C1)OCC)C1=C(C(=NC=2N1N=CC2)Cl)CC=O)=O | C21H23ClN4O4
